Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2].[O:3]=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11],2.42038996178
[H:1][C:2][H:3].[O:4][C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4][C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.9895852854900005
[C:7]([H:8])[H:9].[H:1][C:2]([H:3])[O:4][C:5][H:6]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-7.281022602639999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],1.38937553806
[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:12]([C:9]([H:10])[H:11])([H:13])[H:14]>>[H:1][C:2]1=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],-3.04847724097
[H:1][C:2]([H:3])([H:4])[O:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])[H:4].[O:5][C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],3.7070512611
[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-3.71850187265
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3],1.00912489854
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],2.14362339
[H:1].[O:2]=[C:3]=[C:4][C:5]([H:6])[O:7][H:8]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][H:8],-1.08171828751
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2][C:3]1([H:4])[C:5]([H:6])([H:7])[C:8]1([H:9])[H:10],-0.4214647969300001
[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3][O:4][C:5]#[C:6][C:8]([H:9])[H:10].[H:7],2.8168652866
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7][O:8][H:9]>>[C:5]#[C:6][C:7][O:8][H:9].[O:1]=[C:2]([H:3])[H:4],0.78763413773
[C:2]([H:3])([H:4])[C:5]#[C:6][H:7].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][H:7],-3.4249340595599995
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][O:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][O:10],2.9684669708
[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:6].[O:1]=[C:2]=[C:3]([H:4])[C:5](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.42226942226
[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4]1=[C:5]([H:6])[C:7]1=[C:8]([H:9])[H:10],-1.10528030901
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:7]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-1.95100644437
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][C:4]#[C:5][O:6][H:7]>>[H:1][O:2][C:3]/[C:4](=[C:5]\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.85235795076
[H:8].[O:1]=[C:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:9][H:10]>>[O:1]=[C:2]=[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-3.02529801883
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12].[H:13]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13],-3.85123133347
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20]>>[C:17]([H:18])([H:19])[H:20].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],3.78674996078
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15],1.90519831331
[H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],-1.80156430039
[O:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:3]=[C:4]([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[O:10][H:11],3.4728223096300006
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:2]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:4][H:3],7.42444589479
[H:13].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.365343183369999
[C:4][C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([C:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.27874385462
